US06120970
4-(4-amino-3-hydroxyphenoxy)-4'-(4-carboxyphenoxy)-octafluorobiphenyl
49.9 g of 4-(4-nitro-3-benzyloxyphenoxy)-4'-(4-benzyloxycarbonylphenoxy)octafluorobiphenyl prepared in this way (0.065 mol) are dissolved in 400 ml of a mixture of tetrahydrofuran and ethyl acetate (volume ratio 1:1), and 5 g of Pd/C (palladium/carbon) are added to the solution. The mixture is then hydrogenated at room temperature in an autoclave with vigorous stirring using hydrogen at a pressure of 1 bar; after 3 days, the reaction is terminated. The yellow-beige solution is evaporated to half in a rotary evaporator and left to stand overnight at room temperature, during which the reaction product precipitates in crystalline form. The reaction product is then collected and dried for 48 hours under nitrogen at 40° C./10 mbar in a vacuum drying cabinet.

reactant | 4-(4-nitro-3-benzyloxyphenoxy)-4'-(4-benzyloxycarbonylphenoxy)octafluorobiphenyl | 49.9 g | [N+](=O)([O-])C1=C(C=C(OC2=C(C(=C(C(=C2F)F)C2=C(C(=C(C(=C2F)F)OC2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2)F)F)F)F)C=C1)OCC1=CC=CC=C1 | C39H21F8NO7
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 4-(4-amino-3-hydroxyphenoxy)-4'-(4-carboxyphenoxy)-octafluorobiphenyl | NC1=C(C=C(OC2=C(C(=C(C(=C2F)F)C2=C(C(=C(C(=C2F)F)OC2=CC=C(C=C2)C(=O)O)F)F)F)F)C=C1)O | C25H11F8NO5
